US07301022B2
N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isopropylpiperidine-2-carboxamide.
N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-piperidine-2-carboxamide, Example 49(a), (0.40 g, 0.72 mmol) was reacted with acetone under the conditions of Example 3(d) to give the title compound. MS (ESI, pos. ion.) m/z: 599 (M+1). Mp: 260° C. (with dec.).

reactant | N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-piperidine-2-carboxamide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)C2NCCCC2 | C26H23F3N6O3S
reactant | acetone | CC(=O)C | C3H6O
product | N-(2-(6-(2-Acetamidobenzo[d]thiazol-4-yloxy)pyrimidin-4-yl)-5-(trifluoromethyl)phenyl)-1-isopropylpiperidine-2-carboxamide | C(C)(=O)NC=1SC2=C(N1)C(=CC=C2)OC2=CC(=NC=N2)C2=C(C=C(C=C2)C(F)(F)F)NC(=O)C2N(CCCC2)C(C)C | C29H29F3N6O3S
